US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.445 mmol) in THF (5 mL) was added (1-methylethyl)amine (0.757 mL, 8.89 mmol). The resulting mixture was let stir at rt for 16 h at which time it was diluted with ethyl acetate and washed with a saturated ammonium chloride solution, saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid, containing 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-(1-methylethyl)benzamide. This crude material was dissolved in 1,4-dioxane (5 mL) and transferred to a 20 ml microwave vessel. A solution of 2 M NaOH (5 ml) was added and reaction heated in microwave at 120° C. for 8 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a yellow solid which was purified via chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-(1-methylethyl)benzamide (26 mg, 0.045 mmol) as a beige solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15 (d, J=6.60 Hz, 6H), 2.23 (s, 6 H), 3.07-3.19 (m, 4 H), 3.76 (s, 3 H), 4.07-4.22 (m, 3 H), 6.18-6.26 (m, 1 H), 6.80-6.91 (m, 1 H), 6.93-7.02 (m, 2 H), 7.79 (s, 1 H), 8.36-8.45 (m, 1 H), 8.46-8.56 (m, 2 H), 10.26 (s, 1 H), 11.28-11.37 (s, 1 H). (ESIMS (M+H)+=579)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,10-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.445 mmol, 300 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC(=CC(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
reactant | (1-methylethyl)amine | 8.89 mmol, 0.757 mL | CC(C)N | C3H9N
reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-4,6-difluoro-N-(1-methylethyl)benzamide | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC(C)C)C(=CC(=C2)F)F)OC)C | C36H38F2N8O5S
reactant | NaOH | 2 M, 5 ml | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-4,6-difluoro-N-(1-methylethyl)benzamide | 0.045 mmol, 26 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NC(C)C)C(=CC(=C2)F)F)OC)C | C29H32F2N8O3
